US06133294
N-[1-(Dimethylamino)ethylidene]-5,6-dichloro-3-pyridinecarboxamide
A mixture of 5,6-dichloro-3-pyridinecarboxamide (4.0 g, 0.02 mol), dimethylacetamide dimethyl acetal (8 mL) was heated in an oil bath at 120° C. for three hours. The reaction mixture was cooled to room temperature and the solid recrystallised from ethyl acetate:hexane in the presence of activated carbon to give the desired product (2.3 g, 42%) as an orange solid.

reactant | 5,6-dichloro-3-pyridinecarboxamide | 0.02 mol, 4.0 g | ClC=1C=C(C=NC1Cl)C(=O)N | C6H4Cl2N2O
reactant | dimethylacetamide dimethyl acetal | 8 mL | COC(C)(N(C)C)OC | C6H15NO2
product | N-[1-(Dimethylamino)ethylidene]-5,6-dichloro-3-pyridinecarboxamide | 2.3 g, 42% | CN(C(C)=NC(=O)C=1C=NC(=C(C1)Cl)Cl)C | C10H11Cl2N3O
